US08309725B2
Preparation of methyl 3-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-3-oxopropionate
Under N2, 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (101 mg, 0.26 mmol) was dissolved in absolute CH2Cl2 (13 ml) and malonic acid monomethyl ester chloride (42 mg, 0.31 mmol) was added dropwise. The mixture was stirred at room temperature overnight and then evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.05, l=15 cm, V=5 ml). A yellowish resin was obtained.

reactant | 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.26 mmol, 101 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | malonic acid monomethyl ester chloride | 0.31 mmol, 42 mg | [Cl-].COC(CC(=O)O)=O
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-3-oxopropionate | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)C(CC(=O)OC)=O | C24H31Cl2N3O4
